US08383635B2
4-methyl-6-[(3-methylphenyl)amino]-2-(methylthio)-5-pyrimidinecarboxylic acid
To a 100 ml round-bottom flask were added ethyl 4-methyl-6-[(3-methylphenyl)amino]-2-(methylthio)-5-pyrimidinecarboxylate (2.83 g, 8.92 mmole), sodium hydroxide (dissolved in 5 mL of water) (0.53 g, 13.4 mmole), ethanol (25 mL) and water (25 mL). The reaction was stirred at reflux for 2 h. It was cooled to room temperature and concentrated under vacuum. The residue was treated with water (100 mL) and acidified by dropwise addition of acetic acid. Ethyl acetate (500 mL) was then added and the mixture was stirred for 10 min. The organic phase was separated. The aqueous phase was extracted with ethyl acetate (2×) and the organic extracts were combined and washed with water, brine and dried over MgSO4. The solvent was removed under vacuum to yield the product (2.6 g).

reactant | ethyl 4-methyl-6-[(3-methylphenyl)amino]-2-(methylthio)-5-pyrimidinecarboxylate | 8.92 mmole, 2.83 g | CC1=NC(=NC(=C1C(=O)OCC)NC1=CC(=CC=C1)C)SC | C16H19N3O2S
reactant | sodium hydroxide | 13.4 mmole, 5 mL, 0.53 g | [OH-].[Na+]
reactant | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
product | 4-methyl-6-[(3-methylphenyl)amino]-2-(methylthio)-5-pyrimidinecarboxylic acid | 2.6 g | CC1=NC(=NC(=C1C(=O)O)NC1=CC(=CC=C1)C)SC | C14H15N3O2S
